US07939533B2
b) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-methylsulfanylmethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide
A solution of 0.29 g (0.42 mmol) methanesulfonic acid 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylmethyl ester and 44 mg (0.63 mmol) sodium methanethiolate in 8 ml DMF was heated at 80° C. for 30 min. After cooling to room temperature the reaction mixture was treated with a 1 N aqueous sodium hydroxide solution and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 0.25 g (92%) of the title compound as a white solid.

reactant | methanesulfonic acid 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylmethyl ester | 0.42 mmol, 0.29 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1CCC(CC1)COS(=O)(=O)C)C1=C(C=C(C=C1)F)C)C)(C)C)(F)F | C32H34F7N3O4S
reactant | sodium methanethiolate | 0.63 mmol, 44 mg | C[S-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-methylsulfanylmethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 0.25 g, 92% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)CSC)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C32H34F7N3OS
